data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:3]1[cH:18][cH:9][c:24]([C:20](=[C:12]2[N:14]([CH3:29])[C:22]([CH3:28])=[C:32]([CH3:30])[S:23]2)[O:26][CH3:16])[cH:10][cH:19]1.[n:1]1[n:2][c:27]2[n:6]([cH:8][c:25]([N+:5](=[O:4])[O-:17])[cH:15][c:11]2[N+:13](=[O:7])[O-:31])[n:21]1>>[n:1]1[n:2][c:27]2[n:6]([n:21]1)[CH:8]([C:20]([c:12]1[n+:14]([CH3:29])[c:22]([CH3:28])[c:32]([CH3:30])[s:23]1)([c:24]1[cH:9][cH:18][cH:3][cH:19][cH:10]1)[O:26][CH3:16])[C:25](=[N+:5]([O-:4])[O-:17])[CH:15]=[C:11]2[N+:13](=[O:7])[O-:31]", "epd": [["LP-/Pi+", [14], [12, 14]], ["Pi-/Sigma+", [20, 12], [20, 8]], ["Pi-/Pi+", [8, 25], [25, 5]], ["Pi-/LP+", [5, 4], [4]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:2]=[S:33](=[O:3])([c:19]1[cH:7][cH:15][c:23]([CH3:34])[cH:16][cH:8]1)[n:26]1[cH:18][c:21]([N+:20](=[O:10])[O-:12])[c:22]2[cH:14][cH:29][c:17]([N+:32](=[O:30])[O-:31])[cH:6][c:27]21.[c:1]1([O-:28])[cH:24][cH:4][c:11]([O:13][CH3:9])[cH:5][cH:25]1>>[c:1]1([O:28][CH:18]2[C:21](=[N+:20]([O-:10])[O-:12])[c:22]3[cH:14][cH:29][c:17]([N+:32](=[O:30])[O-:31])[cH:6][c:27]3[N:26]2[S:33](=[O:2])(=[O:3])[c:19]2[cH:7][cH:15][c:23]([CH3:34])[cH:16][cH:8]2)[cH:24][cH:4][c:11]([O:13][CH3:9])[cH:5][cH:25]1", "epd": [["LP-/Sigma+", [28], [28, 18]], ["Pi-/Pi+", [18, 21], [21, 20]], ["Pi-/LP+", [20, 10], [10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[S:2]1(=[O:26])(=[O:27])[c:18]2[c:5]([cH:12][cH:4][cH:21][cH:10]2)[C:24]([O-:6])=[N:23]1.[n:1]1[n:3][c:22]2[n:9]([cH:13][c:20]([N+:8](=[O:7])[O-:17])[cH:16][c:14]2[N+:15](=[O:11])[O-:25])[n:19]1>>[n:1]1[n:3][c:22]2[n:9]([n:19]1)[CH:13]([N:23]1[S:2](=[O:26])(=[O:27])[c:18]3[c:5]([cH:12][cH:4][cH:21][cH:10]3)[C:24]1=[O:6])[C:20](=[N+:8]([O-:7])[O-:17])[CH:16]=[C:14]2[N+:15](=[O:11])[O-:25]", "epd": [["LP-/Pi+", [6], [24, 6]], ["Pi-/Sigma+", [23, 24], [23, 13]], ["Pi-/Pi+", [13, 20], [20, 8]], ["Pi-/LP+", [8, 7], [7]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:13][cH:4][c:7]2[c:3]1[N+:19]([CH3:9])=[CH:12][C:10]2=[CH:8][c:17]1[cH:14][cH:20][cH:27][cH:21][cH:15]1.[cH:5]1[o:16][c:11]([O:18][Si:6]([CH3:23])([CH3:24])[CH3:25])[cH:22][cH:26]1>>[cH:1]1[cH:2][cH:13][cH:4][c:7]2[c:3]1[n:19]([CH3:9])[cH:12][c:10]2[CH:8]([CH:5]1[O+:16]=[C:11]([O:18][Si:6]([CH3:23])([CH3:24])[CH3:25])[CH:22]=[CH:26]1)[c:17]1[cH:14][cH:20][cH:27][cH:21][cH:15]1", "epd": [["LP-/Pi+", [16], [11, 16]], ["Pi-/Pi+", [22, 11], [26, 22]], ["Pi-/Sigma+", [5, 26], [5, 8]], ["Pi-/Pi+", [8, 10], [10, 12]], ["Pi-/LP+", [12, 19], [19]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[CH:1]1=[CH:4][c:5]2[cH:8][cH:7][cH:16][cH:6][c:9]2[CH:17]1[Na:13].[cH:2]1[cH:3][cH:12][cH:15][cH+:10][cH:14][cH:11]1>>[CH:1]1=[CH:4][c:5]2[cH:8][cH:7][cH:16][cH:6][c:9]2[CH:17]1[CH:10]1[CH:14]=[CH:11][CH:2]=[CH:3][CH:12]=[CH:15]1.[Na+:13]", "epd": [["Sigma-/Sigma+", [17, 13], [17, 10]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:2][CH:11]([CH3:3])[N+:25]1=[N:26][N:22]([CH:6]([CH3:27])[CH3:28])[C:29](=[CH2:21])[C-:7]1[C:9]([CH3:30])([CH3:31])[CH3:32].[cH:1]1[cH:4][cH:16][cH:8][c:10]2[c:5]1[N+:20]([CH3:13])=[CH:15][C:14]2=[CH:12][c:19]1[cH:17][cH:23][cH:33][cH:24][cH:18]1>>[cH:1]1[cH:4][cH:16][cH:8][c:10]2[c:5]1[n:20]([CH3:13])[cH:15][c:14]2[CH:12]([c:19]1[cH:17][cH:23][cH:33][cH:24][cH:18]1)[CH2:21][c:29]1[c:7]([C:9]([CH3:30])([CH3:31])[CH3:32])[n+:25]([CH:11]([CH3:2])[CH3:3])[n:26][n:22]1[CH:6]([CH3:27])[CH3:28]", "epd": [["LP-/Pi+", [7], [29, 7]], ["Pi-/Sigma+", [21, 29], [21, 12]], ["Pi-/Pi+", [12, 14], [14, 15]], ["Pi-/LP+", [15, 20], [20]]]}
{"reaction_name": "Cinnamyl substitution", "rsmi": "[OH-:7].[c:1]1([CH:4]=[CH:10][CH2:11][Cl:2])[cH:5][cH:8][cH:3][cH:9][cH:6]1>>[Cl-:2].[c:1]1([CH:4]=[CH:10][CH2:11][OH:7])[cH:5][cH:8][cH:3][cH:9][cH:6]1", "epd": [["LP-/Sigma+", [7], [7, 11]], ["Sigma-/LP+", [2, 11], [2]]]}
{"reaction_name": "Cyclodehydration to thiazole", "rsmi": "[S:1]=[C:4]([CH3:5])[N:8]([CH:2]([C:6]([CH3:3])=[O:7])[H:9])[H:10]>>[O:7]([H:9])[H:10].[s:1]1[c:4]([CH3:5])[n:8][cH:2][c:6]1[CH3:3]", "epd": [["LP-/Pi+", [8], [4, 8]], ["Pi-/LP+", [1, 4], [1]], ["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 10]], ["Sigma-/LP+", [8, 10], [8]], ["Pi-/Pi+", [6, 7], [2, 6]], ["Sigma-/Sigma+", [2, 9], [7, 9]]]}
{"reaction_name": "Electrophilic fluorination of enolates", "rsmi": "[CH2-:1][C:6]([CH3:2])=[O:5].[F:3][F:4]>>[CH2:1]([F:3])[C:6]([CH3:2])=[O:5].[F-:4]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [3, 4], [4]]]}
